US06107329
(S)-2-Amino-N-methyl-3-thiazol-4-yl-propionamide hydrochloride
(S)-(1-Methylcarbamoyl-2-thiazol4-yl-ethyl)-carbamic acid tert-butyl ester (248 mg, 0.87 mmol) was dissolved in 4M HCl-dioxane at 0° C. The resulting mixture was stirred for 1 hour at 25° C., concentrated and the residue triturated with ether. Yield, 202 g, 102%; HPLC (70/30) 2.41 minutes (96%);

reactant | (S)-(1-Methylcarbamoyl-2-thiazol4-yl-ethyl)-carbamic acid tert-butyl ester | 0.87 mmol, 248 mg | C(C)(C)(C)OC(N[C@@H](CC=1N=CSC1)C(NC)=O)=O | C12H19N3O3S
reactant | HCl dioxane | 4M | Cl.O1CCOCC1
product | (S)-2-Amino-N-methyl-3-thiazol-4-yl-propionamide hydrochloride | Cl.N[C@H](C(=O)NC)CC=1N=CSC1 | InChI=1S/C7H11N3OS.ClH/c1-9-7(11)6(8)2-5-3-12-4-10-5;/h3-4,6H,2,8H2,1H3,(H,9,11);1H/t6-;/m0./s1
